US06562849B1
N-(7-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]naphthalen-1-yl)-4-methylbenzenesulfonamide (exemplification compound number 1-349)
A mixture of 5-[4-[6-(8-aminonaphthalen-2-yloxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione (0.4 g), p-toluenesulfonyl chloride (0.30 g), triethylamine (0.16 g) and anhydrous tetrahydrofuran (8 ml) was stirred at 50° C. for 5 hours and then at 70° C. for 2 hours. The reaction mixture was concentrated. To the residue was added water and the precipitate was washed with water and tetrahydrofuran to afford the title compound (0.14 g, mp 137-144° C.).

reactant | 5-[4-[6-(8-aminonaphthalen-2-yloxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione | 0.4 g | NC=1C=CC=C2C=CC(=CC12)OC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | C29H24N4O4S
reactant | p-toluenesulfonyl chloride | 0.30 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.16 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | N-(7-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]naphthalen-1-yl)-4-methylbenzenesulfonamide | 0.14 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC2=NC3=C(N2C)C=C(C=C3)OC3=CC=C2C=CC=C(C2=C3)NS(=O)(=O)C3=CC=C(C=C3)C)C=C1 | C36H30N4O6S2
